US08377923B2
WSC•monohydrochloride (81 mg), HOBt (57 mg) and formic hydrazide (30 mg) were sequentially added to a solution of 5-cyano-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid (140 mg) in DMF (2 ml), followed by stirring at room temperature for 2 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting solid (130 mg) was dissolved in dichloromethane (2 ml) and pyridine (0.090 ml) was added thereto, followed by cooling to −78° C. Trifluoromethanesulfonic acid (0.090 ml) was added to the reaction solution and was elevated to room temperature, followed by stirring for 30 minutes. Saturated aqueous sodium bicarbonate was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1). The resulting solid was washed with diisopropylether to obtain, as a white solid, 4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)-3-(1,3,4-oxadiazol-2-yl)benzonitrile (65 mg).

reactant | HOBt | 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | formic hydrazide | 30 mg | C(=O)NN | CH4N2O
reactant | 5-cyano-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid | 140 mg | C(#N)C=1C=CC(=C(C(=O)O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C21H17F3N4O3
reactant | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)-3-(1,3,4-oxadiazol-2-yl)benzonitrile | 65 mg | CC(C)(OC1=C(C=C(C#N)C=C1)C=1OC=NN1)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C22H17F3N6O2
